US06627651B1
To triphenylphosphine (1.18 g, 4.50 mmol), cyclohexanol (0.468 ml, 4.50 mmol) and methyl 2-hydroxy-6,7-dihydro-5H-benzocycloheptene-8-carboxylate (327 mg, 1.50 mmol) dissolved in THF (6 ml) was added at 0° C. a solution of diisopropyl azodicarboxylate (0.886 ml, 4.50 mmol) in THF (4 ml), and the resulting mixture was stirred at room temperature for 3 days. The reaction mixture was concentrated under reduced pressure and the residue was subjected to column chromatography (silica gel: 45 g, ethyl acetate/hexane=1/25). The objective fractions were concentrated under reduced pressure to obtain methyl 2-cyclohexyloxy-6,7-dihydro-5H-benzocycloheptene-8-carboxylate (434 mg, 1.44 mmol, 96%).

reactant | triphenylphosphine | 4.50 mmol, 1.18 g | C1(=CC=CC=C1)P(C1=CC=CC=C1)C1=CC=CC=C1 | C18H15P
reactant | cyclohexanol | 4.50 mmol, 0.468 ml | C1(CCCCC1)O | C6H12O
reactant | methyl 2-hydroxy-6,7-dihydro-5H-benzocycloheptene-8-carboxylate | 1.50 mmol, 327 mg | OC=1C=CC2=C(C=C(CCC2)C(=O)OC)C1 | C13H14O3
reactant | diisopropyl azodicarboxylate | 4.50 mmol, 0.886 ml | N(=NC(=O)OC(C)C)C(=O)OC(C)C | C8H14N2O4
solvent | THF | 6 ml | C1CCOC1 | C4H8O
solvent | THF | 4 ml | C1CCOC1 | C4H8O
product | methyl 2-cyclohexyloxy-6,7-dihydro-5H-benzocycloheptene-8-carboxylate | 1.44 mmol, 434 mg, 96% | C1(CCCCC1)OC=1C=CC2=C(C=C(CCC2)C(=O)OC)C1 | C19H24O3
